US06632810B2
Synthesis of 1-phenyl-4,5,6-trimethoxyindole-2-carboxylic Acid:
Methyl 1-phenyl-5,6,7-trimethoxyindole-2-carboxylate (280 mg) was dissolved in ethanol (5 mL), a 10% aqueous solution (2 mL) of potassium hydroxide was added to the solution, and the mixture was stirred for 30 minutes under reflux. After cooling, the reaction mixture was concentrated under reduced pressure, and the residue was dissolved in water and washed with ether. The water layer was then neutralized with hydrochloric acid and extracted with ethyl acetate. The resultant organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | Methyl 1-phenyl-5,6,7-trimethoxyindole-2-carboxylate | 280 mg | C1(=CC=CC=C1)N1C(=CC2=CC(=C(C(=C12)OC)OC)OC)C(=O)OC | C19H19NO5
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | 1-phenyl-4,5,6-trimethoxyindole-2-carboxylic Acid | C1(=CC=CC=C1)N1C(=CC2=C(C(=C(C=C12)OC)OC)OC)C(=O)O | C18H17NO5
